US07141561B2
1-[4-(2-Dimethylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)-[1,3]-diazepan-2-one
A solution of 1-(4-hydroxyphenyl)-3-(4-phenoxyphenyl)-[1,3]-diazepan-2-one (26 mg) was dissolved in THF (2 mL), and sodium hydride (80% in oil, 3 mg) was added. After 30 minutes, 2-dimethylaminoethyl chloride (hydrochloride, 11 mg) was added. After 16 hours, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 445.57 (C27H31 N3O3); MS (ESI): 446 ([M+H]+), was obtained in this way.

reactant | 1-(4-hydroxyphenyl)-3-(4-phenoxyphenyl)-[1,3]-diazepan-2-one | 26 mg | OC1=CC=C(C=C1)N1C(N(CCCC1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H22N2O3
reactant | sodium hydride | 3 mg | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride | 11 mg | CN(CCCl)C | C4H10ClN
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-[4-(2-Dimethylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)-[1,3]-diazepan-2-one | CN(CCOC1=CC=C(C=C1)N1C(N(CCCC1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C27H31N3O3
